US06147098
N-Cyano-N'-[3,5-bis(trifluoromethyl)phenyl]-N"-propyl-guanidine
N-[3,5-bis(trifluoromethyl)phenyl]-N'-cyano-O-phenylisourea (0.94 mmol, 350 mg) and n-propylamine (1 ml) was stirred in a sealed flask for 19 h at 75° C. After concentration the residue was dissolved in dichloromethane, washed with 1 N aqueous HCl (2×), water, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (ethyl acetate/heptane 1:2) to give the title compound (90 mg, 28%) as white crystals. Mp 142.5-143.5° C.; 1H-NMR (CDCl3): δ 0.95 (t, 3H), 1.65 (sextet, 2H), 3.35 (q, 2H), 5.45 (br, 1H), 7.68 (br s, 1H), 7.80 (br s, 2H), 8.35 ppm (br, 1H); MA calc for C13H12F6N4 : C, 46.16%; H, 3.58%; N, 16.56%. Found: C, 46.31%; H, 3.65%; N, 16.23%.

reactant | N-[3,5-bis(trifluoromethyl)phenyl]-N'-cyano-O-phenylisourea | 0.94 mmol, 350 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(OC1=CC=CC=C1)=NC#N)(F)F | C16H9F6N3O
reactant | n-propylamine | 1 ml | C(CC)N | C3H9N
product | N-Cyano-N'-[3,5-bis(trifluoromethyl)phenyl]-N"-propyl-guanidine | 90 mg, 28% | C(#N)NC(=NCCC)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C13H12F6N4
